US07247748B2
b) (S)-[3-(2-Methyl-3-bromopropoxy)phenyl]acetic acid methyl ester
To a stirring solution of (3-hydroxy-phenyl)-acetic acid methyl ester (0.75 g, 0.0045 mol) in anhydrous toluene (30 mL) was added (S)-(+)-3-bromo-2-methyl-1-propanol (0.90 g, 0.0059 mol). Polymer bound triphenylphosphine (2.4 g, 0.0072 mole, 3 mmol/g, Fluka Chemie) was then added, and the mixture was stirred for 15 minutes. The reaction mixture was then cooled to 0° C. and diisopropylazodicarboxylate (1.1 g, 0.0056 mol) was added in a dropwise fashion. After stirring at room temperature overnight, the crude reaction mixture was filtered, and the solid washed with toluene. After concentration of the filtrate in vacuo, the crude product was purified by column chromatography over silica gel (silica gel 60, EM Science) using 15% EtOAc:hexane as eluent to afford 0.86 g (63% yield) of the title compound as an oil: MS (ESI) 303.0 (M+2H+).

reactant | (3-hydroxy-phenyl)-acetic acid methyl ester | 0.0045 mol, 0.75 g | COC(CC1=CC(=CC=C1)O)=O | C9H10O3
reactant | (S)-(+)-3-bromo-2-methyl-1-propanol | 0.0059 mol, 0.90 g | BrC[C@H](CO)C | C4H9BrO
reactant | triphenylphosphine | 0.0072 mole, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.0056 mol, 1.1 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | (S)-[3-(2-Methyl-3-bromopropoxy)phenyl]acetic acid methyl ester | 0.86 g, 63% yield | COC(CC1=CC(=CC=C1)OC[C@@H](CBr)C)=O | C13H17BrO3
